US05703240
4-(5-Cyclopropyl-tetrazol-1-yl)-phenol
A solution of 1-(4-benzyloxy-phenyl)-5-cyclopropyl-1H-tetrazole (2.3 g) in ethanol (75 ml) was added to a suspension of 10% palladium on charcoal catalyst (400 mg) in ethanol (10 ml) and the mixture was stirred under a hydrogen atmosphere for 1 h. The catalyst was removed by filtration and the solution concentrated in vacuo to afford the title compound (1.57 g) as a pale yellow solid, m.p. 184°.

reactant | 1-(4-benzyloxy-phenyl)-5-cyclopropyl-1H-tetrazole | 2.3 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=NN=C1C1CC1 | C17H16N4O
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 400 mg | [Pd] | Pd
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(5-Cyclopropyl-tetrazol-1-yl)-phenol | 1.57 g | C1(CC1)C1=NN=NN1C1=CC=C(C=C1)O | C10H10N4O
